US05432177
Step 2: 1-(Benzothiophen-2-yl)piperazine hydrochloride
To a solution of 1-benzyl-4-(benzothiophen-2-yl)piperazine (1.5 g, 4.9 mmol) in anhydrous dichloromethane (20 ml) at 0° C. under nitrogen was added 1-chloroethylchloroformate (0.68 ml, 6.37 mmol). The mixture was allowed to warm to room temperature, stirred for 1h and concentrated in vacuo. The crude residue was dissolved in methanol (10 ml) and heated to reflux for 30 minutes, left to cool and the title compound collected by filtration (0.6 g), m.p. 240° C. (dec.).

reactant | 1-benzyl-4-(benzothiophen-2-yl)piperazine | 4.9 mmol, 1.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1SC2=C(C1)C=CC=C2 | C19H20N2S
reactant | 1-chloroethylchloroformate | 6.37 mmol, 0.68 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(Benzothiophen-2-yl)piperazine hydrochloride | Cl.S1C(=CC2=C1C=CC=C2)N2CCNCC2 | InChI=1S/C12H14N2S.ClH/c1-2-4-11-10(3-1)9-12(15-11)14-7-5-13-6-8-14;/h1-4,9,13H,5-8H2;1H
